US06242422B1
To a suspension of 1-hydroxy-2-naphthoic acid (4.91 g, 26.1 mmol) in toluene (40 mL) at 80° C. (bath temp) under nitrogen was added dimethylformamide di-tert-butyl acetal (25.0 mL, 104.3 mmol) dropwise over 10 min. After stirring at 80° C. for an additional 30 min, the cooled mixture was diluted with Et2O, washed successively with water, saturated NaHCO3 and saturated NaCl solutions, dried over anhydrous Na2SO4 and concentrated. The crude product was combined with that of a smaller run starting with 0.196 g of 1-hydroxy-2-naphthoic acid (total: 5.106 g, 27 mmol) and purified by flash chromatography on silica gel eluting with EtOAc-hexane (5:95) to give 2-carbo-tert-butoxy-1-naphthol (5.52 g, 83%) as a colorless oil. TLC(EtOAc-hexane; 1:9) Rf=0.68.

reactant | 1-hydroxy-2-naphthoic acid | 26.1 mmol, 4.91 g | OC1=C(C=CC2=CC=CC=C12)C(=O)O | C11H8O3
reactant | dimethylformamide di-tert-butyl acetal | 104.3 mmol, 25.0 mL | C(C)(C)(C)OC(N(C)C)OC(C)(C)C | C11H25NO2
reactant | 1-hydroxy-2-naphthoic acid | 27 mmol, 0.196 g | OC1=C(C=CC2=CC=CC=C12)C(=O)O | C11H8O3
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
solvent | Et2O | CCOCC | C4H10O
product | 2-carbo-tert-butoxy-1-naphthol | 5.52 g, 83% | C(=O)(OC(C)(C)C)C1=C(C2=CC=CC=C2C=C1)O | C15H16O3
